US06184242B2
A solution of 4-benzyl-nitrobenzene (4.26 g, 70 mmol) dissolved in dichloromethane (25 mL) was added dropwise to a solution of chlorosulfonic acid (6 mL) in dichloromethane (25 mL) at−30° C. The mixture was stirred for 10 minutes at 0° C., then poured onto ice and shaken. The organic phase was separated and solvents were evaporated. The residue was recrystallized from dichloromethane/hexanes to yield 4-(4-chlorosulfonylbenzyl)-nitrobenzene (5.52 g, 78%) as dichloromethane hemisolvate crystals.

reactant | 4-benzyl-nitrobenzene | 70 mmol, 4.26 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO2
reactant | chlorosulfonic acid | 6 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-(4-chlorosulfonylbenzyl)-nitrobenzene | 5.52 g, 78% | ClS(=O)(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H10ClNO4S
